US07560551B2
A 100 ml dried round bottom flask was charged with N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine hydrochloride (1.25 g, 2.27 mmol) and sonicated in methanol (20.6 ml, 0.11 M) for 20 minutes. To this was added oxone (4.18 g, 6.81 mmol) and the mixture was stirred at RT for 2 days. The mixture was cooled to 0° C. and basified with aq. NaHCO3. The solids were filtered, washed with water, and dried under high vacuum to provide N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine as a light yellow solid. MS m/z=547 [M+H]+. Calc'd for C30H22N6O3S: 546.60.

reactant | N-(4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine hydrochloride | 2.27 mmol, 1.25 g | Cl.CSC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1
reactant | oxone | 6.81 mmol, 4.18 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 0.11 M, 20.6 ml | CO | CH4O
product | N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine | CS(=O)(=O)C1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H22N6O3S
